US07919496B2
5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID (4-METHYLPENTYL)AMIDE
Following the procedure as described in Example 3, making variations only as required to use 4-methylpentylamine in place of isoamylamine to react with 5-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester, the title compound was obtained as a white solid (0.045 g, yield 79%). 1H NMR (300 MHz, CDCl3) δ 7.73-7.7 (m, 1H), 7.64-7.5 (m, 2H), 7.34-7.32 (m, 1H), 7.06 (br., t, 1H), 4.09-3.8 (m, 1H), 3.93-3.81 (m, 1H), 3.75-3.6 (m, 2H), 3.56-3.48 (m, 2H), 3.43-3.29 (m, 4H), 1.63-1.48 (m, 3H), 1.46-1.16 (m, 2H), 0.85 (d, J=6.6 Hz, 6H). 13C NMR (75 MHz, CDCl3) δ 174.5, 167.5, 158.2, 156.0, 133.9, 132.3, 129.6, 126.9, 126.8, 126.7, 125.3, 121.7, 49.5, 48.9, 45.9, 40.7, 39.9, 35.9, 27.7, 27.3, 22.4. MS (ES+) m/z 470 (M+1).

reactant | 4-methylpentylamine | CC(CCCN)C | C6H15N
reactant | 5-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H17F3N4O3S
product | 5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID (4-METHYLPENTYL)AMIDE | CC(CCCNC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)C | C21H26F3N5O2S
